US08609696B2
To a stirred mixture of 4-biphenyl carboxylic acid (10.0 g, 50.5 mmol) and 2-(piperidin-4-yl)-1H-benzimidazole (10.1 g, 50.5 mmol) in DCM (400 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (12.0 g, 62.7 mmol) and 4-dimethylaminopyridine (3.08 g, 25.2 mmol). After 3 h the reaction mixture is diluted with saturated aqueous NaHCO3 (200 mL) and water (100 mL). The mixture is stirred for a few minutes. The organic layer is separated, washed with water, dried over Na2SO4, filtered and concentrated under reduced pressure. Trituration with EtOAc and further washing with EtOAc gives 14.1 g of [4-(1H-benzimidazol-2-yl)piperidin-1-yl](biphenyl-4-yl)methanone.

reactant | 4-biphenyl carboxylic acid | 50.5 mmol, 10.0 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | 2-(piperidin-4-yl)-1H-benzimidazole | 50.5 mmol, 10.1 g | N1CCC(CC1)C1=NC2=C(N1)C=CC=C2 | C12H15N3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 62.7 mmol, 12.0 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 25.2 mmol, 3.08 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | [4-(1H-benzimidazol-2-yl)piperidin-1-yl](biphenyl-4-yl)methanone | 14.1 g | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C25H23N3O
